US09284315B2
2. Preparation of diethyl 2-(((6-bromopyridin-3-yl)amino)methylene)malonate
6-bromopyridin-3-amine (74 g, 0.43 mol) and diethyl ethoxymethylenemalonate (100 mL) were added to 680 mL of ethanol and heated under reflux for 5 h. The reaction mixture was cooled to precipitate a solid, suction filtrated, and the resulting solid was washed with petroleum ether to give 125.4 g of a pale yellow solid.

reactant | 6-bromopyridin-3-amine | 0.43 mol, 74 g | BrC1=CC=C(C=N1)N | C5H5BrN2
reactant | diethyl ethoxymethylenemalonate | 100 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | 680 mL | C(C)O | C2H6O
product | diethyl 2-(((6-bromopyridin-3-yl)amino)methylene)malonate | 125.4 g | BrC1=CC=C(C=N1)NC=C(C(=O)OCC)C(=O)OCC | C13H15BrN2O4
